US07145008B2
Preparation of 5-(4-Chloro-5-trifluoromethyl-pyrimidin-2-ylamino)-3,3-difluoro-1,3-dihydro-indol-2-one:
316 mg (1.46 mmol) 5-trifluoromethyl-2,4-dichloropyrimidine was taken into 2.30 mL of a 1:1 mix of tert-butanol and 1,2-dichloroethane. To this solution was added 1.46 mL (1.46 mmol) zinc chloride solution (1.0 M in ether). The reaction solution was allowed to stir at ambient temperature for thirty minutes. 1.31 mmol 5-Amino-3,3-difluoro-1,3-dihydro-indol-2-one was added drop-wise as a suspension in 500 □L tert-butanol/1,2-dichloroethane solvent mixture. 202 □L (1.46 mmol) triethylamine was slowly added to the slurry. A slight exotherm and severe clumping was noted (Too much diethyl ether to allow for solution). Allowed the reaction mixture to stir at ambient temperature overnight (16 hours). A complete solution had been achieved over the period. All volatiles were removed under reduced pressure to reveal a brown foam. Triteration from methanol gave the titled compound as a tan solid upon filtration in 31% yield (164 mg, 0.450 mmol). APCI m/z 365.2/367.2 (MH+); 1H NMR (D6-DMSO) δ 11.17 (s, 1 exchangeable H), 10.73 (s, 1 exchangeable H), 8.80 (bs, 1 H), 8.00 (bs, 1 H), 7.69 (d, J=8.3 Hz, 1H), 6.99 (d, J=8.3 Hz, 1 H) ppm.

reactant | 5-trifluoromethyl-2,4-dichloropyrimidine | 1.46 mmol, 316 mg | FC(C=1C(=NC(=NC1)Cl)Cl)(F)F | C5HCl2F3N2
reactant | tert-butanol | C(C)(C)(C)O | C4H10O
reactant | 5-Amino-3,3-difluoro-1,3-dihydro-indol-2-one | 1.31 mmol | NC=1C=C2C(C(NC2=CC1)=O)(F)F | C8H6F2N2O
reactant | triethylamine | 1.46 mmol | C(C)N(CC)CC | C6H15N
solvent | tert-butanol 1,2-dichloroethane | C(C)(C)(C)O.ClCCCl
catalyst | zinc chloride | 1.46 mmol, 1.0 M, 1.46 mL | [Cl-].[Zn+2].[Cl-]
solvent | diethyl ether | C(C)OCC | C4H10O
solvent | 1,2-dichloroethane | ClCCCl | C2H4Cl2
product | 5-(4-Chloro-5-trifluoromethyl-pyrimidin-2-ylamino)-3,3-difluoro-1,3-dihydro-indol-2-one | 31% yield | ClC1=NC(=NC=C1C(F)(F)F)NC=1C=C2C(C(NC2=CC1)=O)(F)F | C13H6ClF5N4O
